US04871877
A flask equipped with a dry ice condenser was flame dried under a nitrogen stream, and charged with 25 g (0.17 mol) of chlorotriethylsilane and 40 mL of dichloromethane. After cooling the resulting solution to -78° C. and charging the condenser with dry ice and acetone, 40 mL (043 mol) of bromotrifluoromethane (Freon 13B1) that had been condensed into a graduated tube was warmed to room temperature and allowed to distill into the flask. The cold solution was treated dropwise with 66 mL (0.24 mol) of hexaethylphosphorous triamide, allowed to stir at -78° C. for two hours, and allowed to stir at room temperature overnight. Low boiling components were then short path distilled into a cold (-78° C.) receiving flask at >1 torr with the pot temperature kept at <50° C. The distillate was further fractionated by removal of the dichloromethane (40°-45° C. at atmospheric pressure) and short path distillation to give 22.0 g of 98% pure (69% yield) triethyltrifluoromethylsilane: bp 52°-54° C. at 10 torr; 1H NMR (CDCl3) δ 0.59-1.16 (m); 19 F NMR (CDCl3, relative to CFCl3) -61.3 ppm (s); IR (neat) 2960, 2915, 2882, 1458, 1413, 1206, 1055, 1020, 734, 693 cm-1 ; mass spectrum (70 eV) m/z (relative intensity) 115 (66, M-CF3), 105 (46), 87 (85), 77 (100), 59 (56), 49 (41), 47 (37), 41 (38). Anal. Calcd. for C7H15F3Si: C, 45.62; H, 8.20. Found: C, 47.53; H, 8.56.

reactant | chlorotriethylsilane | 0.17 mol, 25 g | Cl[Si](CC)(CC)CC | C6H15ClSi
reactant | dry ice | C(=O)=O | CO2
reactant | bromotrifluoromethane | 40 mL | BrC(F)(F)F | CBrF3
reactant | hexaethylphosphorous triamide | 0.24 mol, 66 mL | C(C)N(P(N(CC)CC)N(CC)CC)CC | C12H30N3P
solvent | acetone | CC(=O)C | C3H6O
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | triethyltrifluoromethylsilane | 69% yield | C(C)[Si](C(F)(F)F)(CC)CC | C7H15F3Si
